* C:\Users\Rachel\Desktop\Proyecto Discretos\CMOSopamp-top.asc
V1 vdda N001 1.65
V2 N001 vssa 1.65
R1 gnda 0 0.1
C2 out gnda 10p
XX2 0 0 vdda vssa out cmosopamp

* block symbol definitions
.subckt cmosopamp inp inn vdda vssa out
Ibias vdda N004 45µ
M1 NC_01 N001 vdda vdda PMOS1
M2 N002 N001 vdda vdda PMOS2
M7 out N002 vdda vdda PMOS7
M3 N001 inn N003 vssa NMOS3
M4 N002 inp N003 vssa NMOS4
M5 N004 N004 vssa vssa NMOS5
M6 N003 N004 vssa vssa NMOS6
M8 out N004 vssa vssa NMOS8
.ends cmosopamp

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Rachel\Documents\LTspiceXVII\lib\cmp\standard.mos
.MODEL PMOS1 PMOS (Kp=58u Vto=-0.5 W=2.2u L=2u lambda=0.04)
.MODEL PMOS2 PMOS (Kp=58u Vto=-0.5 W=2.2u L=2u lambda=0.04)
.MODEL NMOS3 NMOS (Kp=170u Vto=0.5 W=6u L=2u lambda=0.002)
.MODEL NMOS4 NMOS (Kp=170u Vto=0.5 W=6u L=2u lambda=0.002)
.MODEL NMOS5 NMOS (Kp=170u Vto=0.5 W=3.2u L=1u lambda=0.015)
.MODEL NMOS6 NMOS (Kp=170u Vto=0.5 W=3.2u L=1u lambda=0.015)
.MODEL PMOS7 PMOS (Kp=58u Vto=-0.5 W=100u L=1u lambda=0.005)
.MODEL NMOS8 NMOS (Kp=170u Vto=0.5 W={W8} L=1u lambda=0.015)
.op
.step param W8 2u 12u 0.1u
.backanno
.end
